US05708033
To a mixture of 3-(2-chloro-4-fluorophenyl)propanoic acid (21.6 g, 0.11 mol) and dichloromethane at room temperature was added dropwise oxalyl chloride (19.2 ml). The mixture was stirred at room temperature until gas evolution had ceased. The excess oxalyl chloride was removed by distillation to give 3-(2-chloro-4-fluorophenyl)propionyl chloride. A solution of the 3-(2-chloro-4-fluorophenyl) propionyl chloride in dichloromethane (100 ml) was added dropwise to a mixture of aluminium chloride (17.3 g, 0.13 mol, Aldrich) in dichloromethane (100 ml) at room temperature. After the addition was completed, the mixture was refluxed for 2.5 h. The reaction mixture was poured into ice water (1.5 L). The two phases were separated and the dichloromethane phase was washed with 0.1N aqueous sodium hydroxide, dried (Na2SO4), and concentrated to give crude 4-chloro-6-fluoro-1-indanone. Chromatography on silica gel with hexanes:dichloromethane (1:1) as eluent gave 11.1 g (55%) of 4-chloro-6-fluoro-1-indanone as a white solid: mp 94°-96° C.

reactant | 3-(2-chloro-4-fluorophenyl) propionyl chloride | ClC1=C(C=CC(=C1)F)CCC(=O)Cl | C9H7Cl2FO
reactant | aluminium chloride | 0.13 mol, 17.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-chloro-6-fluoro-1-indanone | 11.1 g, 55% | ClC1=C2CCC(C2=CC(=C1)F)=O | C9H6ClFO
